US04173478
Preparation of 2-hydroxy-5-(4-methoxyphenylazo)-N-(1H-tetrazol-5-ylmethyl)benzamide (Dye 16)
5-(4-Methoxyphenylazo)salicoyl chloride and 5-aminomethyltetrazole were reacted together under the conditions described for the preparation of Dye 6 to form Dye 16, m.p. 220°-225° decomp., after crystallization from aqueous acetic acid, λmax (methanol)=350 nm.

reactant | 5-(4-Methoxyphenylazo)salicoyl chloride | COC1=CC=C(C=C1)N=NC1=CC=C(C(C(=O)Cl)=C1)O | C14H11ClN2O3
reactant | 5-aminomethyltetrazole | NCC1=NN=NN1 | C2H5N5
product | 2-hydroxy-5-(4-methoxyphenylazo)-N-(1H-tetrazol-5-ylmethyl)benzamide | OC1=C(C(=O)NCC2=NN=NN2)C=C(C=C1)N=NC1=CC=C(C=C1)OC | C16H15N7O3
